US08097349B2
(2) Synthesis of 2-[5-(10-naphthalene-2-yl-anthracene-9-yl)-pyridine-3-yl]-1-phenyl-1H-benzimidazole (Compound (4-6))
Almost the same procedure as step (2) in Synthesis Example 1 was carried out except that corresponding 2-(5-bromopyridine-3-yl)-1-phenyl-1H-benzimidazole was used instead of 2-(4-bromophenyl-phenyl-1H-benzimidazole, resultantly obtaining an aimed compound (Compound (4-6) (yield: 36%). As a result of MS analysis, it was recognized that m/e=573 for aimed substance's molecular weight of 573.22.

reactant | 2-(5-bromopyridine-3-yl)-1-phenyl-1H-benzimidazole | BrC=1C=C(C=NC1)C1=NC2=C(N1C1=CC=CC=C1)C=CC=C2 | C18H12BrN3
reactant | 4-bromophenyl-phenyl-1H-benzimidazole | BrC1=CC=C(C=C1)C1=NC2=C(N1C1=CC=CC=C1)C=CC=C2 | C19H13BrN2
product | 2-[5-(10-naphthalene-2-yl-anthracene-9-yl)-pyridine-3-yl]-1-phenyl-1H-benzimidazole | C1=C(C=CC2=CC=CC=C12)C1=C2C=CC=CC2=C(C2=CC=CC=C12)C=1C=C(C=NC1)C1=NC2=C(N1C1=CC=CC=C1)C=CC=C2 | C42H27N3
